US09119868B2
To a solution of ethyl 2-(4-chlorophenyl)-5-hydroxy-6-nitrobenzofuran-3-carboxylate (10.2 g, 22.9 mmol) and DMAP (0.289 g, 2.3 mmol) in anhydrous DCM (300 mL) and anhydrous TEA (4.8 mL) in an ice bath under nitrogen was added trifluoromethane sulfonic anhydride (5.62 mL, 34 mmol). The reaction mixture was stirred under nitrogen at 0° C. for 30 min then quenched at 0° C. with water (200 mL) and extracted with DCM (3×200 mL). The combined organic layers were washed with water (3×600 mL), 2N HCl (2×300 mL), water (300 mL), dried with anhydrous sodium sulfate, filtered and concentrated under reduced pressure to afford ethyl 2-(4-chlorophenyl)-6-nitro-5-(trifluoromethylsulfonyloxy)benzofuran-3-carboxylate (10 g, 80%) as a yellow solid that was used without further purification.

reactant | ethyl 2-(4-chlorophenyl)-5-hydroxy-6-nitrobenzofuran-3-carboxylate | 22.9 mmol, 10.2 g | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)[N+](=O)[O-])O | C17H12ClNO6
reactant | trifluoromethane sulfonic anhydride | 34 mmol, 5.62 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | DMAP | 2.3 mmol, 0.289 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | ethyl 2-(4-chlorophenyl)-6-nitro-5-(trifluoromethylsulfonyloxy)benzofuran-3-carboxylate | 10 g, 80% | ClC1=CC=C(C=C1)C=1OC2=C(C1C(=O)OCC)C=C(C(=C2)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C18H11ClF3NO8S
